US06265411B1
A solution of 5-nitrooxindole (400 mg, 2.2 mmol) in THF (4 ml) was added to sodium hydride (89 mg, 3.7 mmol, prewashed with THF) in THF (4 ml). The mixture was stirred for 30 minutes at ambient temperature and a solution of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (200 mg, 0.75 mmol), (prepared as described for the starting material in Example 2), in THF (3 ml) and DMF (1 ml) was added dropwise. The mixture was stirred for 1 hour at ambient temperature, followed by 1.5 hours at 70° C. The solvent was removed by evaporation and the residue was partitioned between ethyl acetate and water. The aqueous layer was adjusted to pH7 with 2M hydrochloric acid. The precipitated product was collected by filtration, washed with ether and dried under vacuum at 60° C. The solid was dissolved in methanol (10 ml) and 7.5M hydrogen chloride in methanol (2 ml) was added. The volatiles were removed by evaporation, the solid residue was triturated with ether, collected by filtration and dried under vacuum to give 6-methoxy-7-(2-methoxyethoxy)-4-(5-nitrooxindol-3-yl)quinazoline hydrochloride (173 mg, 57%).

reactant | 5-nitrooxindole | 2.2 mmol, 400 mg | [N+](=O)([O-])C=1C=C2CC(NC2=CC1)=O | C8H6N2O3
reactant | sodium hydride | 3.7 mmol, 89 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.75 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 6-methoxy-7-(2-methoxyethoxy)-4-(5-nitrooxindol-3-yl)quinazoline hydrochloride | 173 mg, 57% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCOC)C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C20H18N4O6.ClH/c1-28-5-6-30-17-9-15-13(8-16(17)29-2)19(22-10-21-15)18-12-7-11(24(26)27)3-4-14(12)23-20(18)25;/h3-4,7-10,18H,5-6H2,1-2H3,(H,23,25);1H
